US04518783
In a variation of the present process, the (-)-2-(2,6-dichlorophenoxy)-propionic acid ethylester obtained as above described, is reacted with an ethanolic solution of ammonia at room temperature and is converted into (+)-2-(2,6-dichlorophenoxy)-propionic acid amide which is difficultly soluble in ethanol. This amide is dehydrated at from 0° to 30° C. with a titanium tetrachloride/tetrahydrofurane complex and 4-methyl-morpholine in chloroform into (-)-2-(2,6-dichlorophenoxy)-propionic acid nitrile. By introducing hydrogen chloride at 0° C., the nitrile is then converted with ethanol in chloroform into (-)-2-(2,6-dichlorophenoxy)-propionimido acid ethylester hydrochloride. This compound is dissolved in ethanol and is cyclized by adding 1,2-diaminoethane to produce (-)-2-[1-(2,6-dichlorophenoxy)-ethyl]-1,3-diazacyclopent-2-ene. Analogously to the previous process, (-)-2-[1-(2,6-dichlorophenoxy)-ethyl]-1,3-diazacyclopent-2-ene hydrochloride is produced from the (-)-base thus obtained.

reactant | (-)-2-(2,6-dichlorophenoxy)-propionic acid ethylester | C(C)OC(C(C)OC1=C(C=CC=C1Cl)Cl)=O | C11H12Cl2O3
reactant | ammonia | N | H3N
reactant | (+)-2-(2,6-dichlorophenoxy)-propionic acid amide | ClC1=C(OC(C(=O)N)C)C(=CC=C1)Cl | C9H9Cl2NO2
reactant | 4-methyl-morpholine | CN1CCOCC1 | C5H11NO
reactant | hydrogen chloride | Cl | ClH
reactant | 1,2-diaminoethane | NCCN | C2H8N2
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (-)-2-[1-(2,6-dichlorophenoxy)-ethyl]-1,3-diazacyclopent-2-ene | ClC1=C(OC(C)C=2NCCN2)C(=CC=C1)Cl | C11H12Cl2N2O
